US07365085B2
a) 4-(6-Hydroxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a stirring solution of 6-piperazin-1-yl-pyridin-2-ol (0.6 g, 3.30 mmol—Pavia, M. R., Taylor, C. P., Hershenson, F. M., Lobbestael, S. J. J. Med. Chem. 1987, 30(7), 1210) in 1,4-dioxane (15 ml) was added t-BOC2O (0.80 g, 3.68 mmol) and H2O (3 ml). The reaction mixture was heated at 75° C. for 8 h and cooled to RT. The heterogenous mixture was filtered and concentrated. Purification by flash silica gel chromatography afforded the title compound as a red solid, 0.90 g (97%). MS (ESI) 280.4 (M+H+).

reactant | 6-piperazin-1-yl-pyridin-2-ol | 3.30 mmol, 0.6 g | N1(CCNCC1)C1=CC=CC(=N1)O | C9H13N3O
reactant | t-BOC2O | 3.68 mmol, 0.80 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 3 ml | O | H2O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(6-Hydroxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)O | C14H21N3O3
